US04247700
2-[(4-Hydroxy-4-phenyl-1-piperidyl)methyl]propenenitrile
A solution of cyanoacetic acid (4.3 g., 0.05 mole) in 15 ml. of dioxane was cooled with an ice bath, and 4-hydroxy-4-phenylpiperidine (8.8 g., 0.05 mole) added while maintaining an internal temperature of 20°-25° C. Upon complete addition and a further fifteen minutes of stirring 37% aqueous formaldehyde (9 gm., 0.10 mole) was added dropwise in approximately five minutes. When approximately half was added carbon dioxide evolution was observed, the maximum internal temperature was 28° C. The reaction mixture was stirred overnight, mixed with 100 ml. of methylene chloride, the organic phase separated, washed with water and salt solution. Upon removal of solvent the product was obtained as an oil, 10.5 g., in practically analytical purity.

reactant | cyanoacetic acid | 0.05 mole, 4.3 g | C(#N)CC(=O)O | C3H3NO2
reactant | 4-hydroxy-4-phenylpiperidine | 0.05 mole, 8.8 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | formaldehyde | 0.10 mole, 9 gm | C=O | CH2O
reactant | carbon dioxide | C(=O)=O | CO2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[(4-Hydroxy-4-phenyl-1-piperidyl)methyl]propenenitrile | OC1(CCN(CC1)CC(C#N)=C)C1=CC=CC=C1 | C15H18N2O
